US04980371
A mixture of 68.1 g (1.0 mole) of furan and 500 ml of anhydrous ether is stirred at -20° C. after which 1.1 moles (458 ml of a 2.4 molar hexane solution) of butyllithium is added slowly with stirring. The reaction mixture is stirred for 1 hour, then 284 g (1.2 moles) of 1-bromododecane is added. The reaction mixture is stirred at room temperature for 4 hours after which it is poured into a saturated ammonium chloride solution. The organic layer is separated and washed with water and brine, dried over sodium sulfate and distilled under reduced pressure to give 2-dodecylfuran.

reactant | furan | 1.0 mole, 68.1 g | O1C=CC=C1 | C4H4O
reactant | butyllithium | C(CCC)[Li]
reactant | 1-bromododecane | 1.2 moles, 284 g | BrCCCCCCCCCCCC | C12H25Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | 2.4 molar | CCCCCC | C6H14
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2-dodecylfuran | C(CCCCCCCCCCC)C=1OC=CC1 | C16H28O
